US04006245
A suspension of 1.0 parts of 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxamide in 10 parts of dioxane and 10 parts of 10% v /v sulphuric acid was heated on a steam can for eight hours. The solid obtained on cooling was collected, washed with water and crystallised from acetone to give 0.75 parts of 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxylic acid, m.pt. 164°-166°.

reactant | 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxamide | O=C1C=C(OC2=C1C=CC(=C2)OCCCOC2=C(C=CC=C2)CCC)C(=O)N | C22H23NO5
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxylic acid | O=C1C=C(OC2=C1C=CC(=C2)OCCCOC2=C(C=CC=C2)CCC)C(=O)O | C22H22O6
